US07511144B2
Manganese dioxide (10 g) was added to a solution of 4-(2-hydroxyethylidene)-3,3-dimethylpiperidine-1-carboxylic acid t-butyl ester (0.9 g, 3.5 mmol) in a mixture of hexane (30 mL)-chloroform (10 mL) and stirred for 10 hours. After the reaction was completed, insoluble materials were filtered off through Celite, and the filtrate was concentrated under a reduced pressure to obtain 0.63 g (yield 70.8%) of 3,3-dimethyl-4-(2-oxoethylidene)piperidine-1-carboxylic acid t-butyl ester (VII-141, 142). Its physical property is shown below.

reactant | 4-(2-hydroxyethylidene)-3,3-dimethylpiperidine-1-carboxylic acid t-butyl ester | 3.5 mmol, 0.9 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)=CCO)(C)C | C14H25NO3
reactant | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | hexane | 30 mL | CCCCCC | C6H14
catalyst | Manganese dioxide | 10 g | [O-2].[O-2].[Mn+4]
product | 3,3-dimethyl-4-(2-oxoethylidene)piperidine-1-carboxylic acid t-butyl ester | 0.63 g, yield 70.8% | C(C)(C)(C)OC(=O)N1CC(C(CC1)=CC=O)(C)C | C14H23NO3
